US04464531
Following a procedure similar to that of Example 1 but using 2.88 g of 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate and 7.77 g of 2,3,4-tri-O-acetyl-α-L-rhamnopyranosyl bromide there was obtained 3.32 g of 1-(4-nitrobenzyl)-4-(2,3,4-tri-O-acetyl-α-L-rhamnopyranosyl)oxy-1H-imidazole-5-carboxamide.

reactant | 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate | 2.88 g | C(N)(=O)C1=C(NC=[N+]1CC1=CC=C(C=C1)[N+](=O)[O-])[O-] | C11H10N4O4
reactant | 2,3,4-tri-O-acetyl-α-L-rhamnopyranosyl bromide | 7.77 g | C(C)(=O)O[C@H]1[C@@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C)Br | C12H17BrO7
product | 1-(4-nitrobenzyl)-4-(2,3,4-tri-O-acetyl-α-L-rhamnopyranosyl)oxy-1H-imidazole-5-carboxamide | 3.32 g | [N+](=O)([O-])C1=CC=C(CN2C=NC(=C2C(=O)N)O[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O2)C)C=C1 | C23H26N4O11
